US09108966B2
DIPEA (3.7 g, 10 mmol) was added to a solution of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carboxylic acid (1.45 g, 5.3 mmol) and tert-butyl 4-(hydrazinecarbonyl)piperazine-1-carboxylate, (1.6 g, 6.6 mmol) in dry DMF (50 mL) at 0° C., followed by the addition of HATU (1.45 g, 5.3 mmol). The reaction mixture was stirred at rt overnight. The mixture was diluted with water (200 mL), and the resulting precipitation was collected by filtration, rinsed with water, and then recrystallized (3:1 petroleum ether/EtOAc) to afford tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbonyl)hydrazinecarbonyl)piperazine-1-carboxylate (1.4 g, 54%), ESI-MS (EI+, m/z): 503 [M+H]+.

reactant | DIPEA | 10 mmol, 3.7 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carboxylic acid | 5.3 mmol, 1.45 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | tert-butyl 4-(hydrazinecarbonyl)piperazine-1-carboxylate | 6.6 mmol, 1.6 g | N(N)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C10H20N4O3
reactant | HATU | 5.3 mmol, 1.45 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbonyl)hydrazinecarbonyl)piperazine-1-carboxylate | 1.4 g, 54% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C24H34N6O6
